Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ Cardiac catheterization

 
History of Present Illness:
Patient is a ___ year old male with history of coronary artery 
disease status-post catherization in ___ with stent to OM1, 
and hypertension who presents with chest pain.  
.  
Patient reports that he had a "stabbing" chest pain this 
morning. He states he had "a lot" of chest pain, more than the 
___ episodes per day he had been having previously. He states it 
improved with nitroglycerin that he took at home. He also had 
had a positive stress test about a week ago and an outpatient 
catherization at ___ had been planned.  
.  
He initially presented to ___, where he 
received nitropaste. Vitals there were 94/22, HR 94, RR 18, 97% 
on RA, and no pain. Cardiac enzymes there were CK 170 and 
Troponin 0.02 at 12:30 ___.  
Upon arrival to ___, his blood pressure was 104/52, HR 52, RR 
18, temperature 96.2, and respiratory rate of 18. He was given 
325 mg of aspirin and tolerated it well--of note there is a 
possible allergy to aspirin noted in his admission intake form.  

.  
Patient was resting comfortably in his bed without any 
complaints when interviewed. He denied chest pain or shortness 
of breath.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, cough, hemoptysis, black stools or 
red stools. He denies recent fevers, chills or rigors. No 
exertional buttock or calf pain. All of the other review of 
systems were negative except for pain in his right hand that 
patient relates has continued to bother him since a fall earlier 
in the year.  
.  
Cardiac review of systems is notable for chest pain as discussed 
above, accompanied by lightheadedness this morning. No worsening 
dypsnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  

 
Past Medical History:
- CAD s/p BMS to OM1  (see below)
- HTN  
- renal calculi s/p surgery  
- hip replacement x 2 on right r/t injuries  
- GSW to pelvis/femur WWII; left hip replacement r/t war 
injuries (left leg is shorter than right)  
- BPH  
- pneumonia  
- appendectomy  
.  
Cardiac Risk Factors: (-)Diabetes, (-)Dyslipidemia, 
(+)Hypertension  
.  
Cardiac History:  
Percutaneous coronary intervention, in ___ anatomy as 
follows: BMS to the OM with rotational atherectomy. Had to have 
___ cath 10 days after first as first attempt at stent placement 
was unsuccessful.  

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease. 
A brother died suddenly in sleep at age ___. 
 
Physical Exam:
VS: 97.7, 158/67, 56, 18, 97% on RA, 161 lbs.  
GENERAL: Elderly male, sleeping, easily awaken, NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Bradycardic, irregularly irregular, S1, S2. No m/r/g. No 
thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi. Transmitted noises from abdomen appreciated 
at times. Fleshy nodule in middle of upper back.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Bilateral: Carotid 2+ Very strong bilateral DP 2+ ___ 2+
 
Pertinent Results:
___ Cardiac cath:
COMMENTS:      
1. Selective coronary angiography of this right dominant system 
demonstrated no significant obstructive CAD. The LMCA had mild 
disease. 
The LCX/OM1 stents were patent. The LA and RCA had moderate 
diffuse disease, unchanged from the prior catheterization in 
___. 
2. Limited resting hemodynamics demonstrated systemic arterial 
hypertension (154/61). 
  
FINAL DIAGNOSIS:     
1. No significant obstructive CAD. Patent OM stents. 

 
Brief Hospital Course:
Patient is a ___ year old male with history of coronary artery 
disease and hypertension who presents with chest pain in the 
setting of a recent positive stress test.  
.  
# CORONARIES: Patient has known CAD, has prior BMS to OM1 in 
___. His recurrent chest pain is concerning for stuttering 
angina given his known disease and response to nitroglycerin. 
Report of his out-patient stress test (reportedly positive per 
patient) was not available for review at time of admission, but 
plans were already being made for repeat catherization given 
worsening symptoms in the setting of a good medical regimen. 
Cardiac enzymes were negative times three and no ischemic 
changes were seen on EKG. Cardiac catheterization was performed 
which revealed no significant lesions or stenosis.  Pt remained 
pain free throughout his hospitalization. He was instructed to 
continue his home cardiac medications as previously directed and 
follow up with his primary care physician within one week of 
discharge.
.  
# RHYTHM: Pt has no history of arrhythmias. Sinus bradycardia 
with 1st degree AV block is an old finding. Given pts known 
bradycardia and new history of dizziness and fatigue, pt was 
evaluated by the Electrophysiology team.  There was no 
indication for pacemaker placement during this admission.  Pt 
was discharged home with a holter monitor to observe the extent 
of his bradycardia. Pt will follow up with his primary care 
provider and cardiologist to determine the benefit of a 
pacemaker in the future.  
.
# PUMP: No evidence of failure on history or exam.  
.   
# HTN: Continue home medications (mayzide, terazosin, diovan, 
metoprolol in lieu of atenolol given advanced age and atenolol 
is renally cleared)  
.  
# BPH: Continue terazosin.  
.  
# Anemia: Stable from one year ago. Will defer any desired 
further work-up to outpatient providers.  
.  
# FEN: Precath hydration was provided.  
.  
# ACCESS: PIV's   
.  
# CODE: Full  
.  
# Contact: Daughter ___:  
Phone: ___  

 
Medications on Admission:
Atenolol 25 mg daily  
Plavix 75 mg daily  
___ 12.5 mg daily  
Omeprazole 40 mg daily  
Zocor 20 mg daily  
Terazosin 10 mg daily  
Diovan 80 mg daily  
Imdur 60 mg daily  
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
5. Terazosin 10 mg Capsule Sig: One (1) Capsule PO once a day.  
6. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
7. Valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Maxzide-25mg  Oral

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary
1. Coronary artery disease
2. Hypertension
3. Bradycardia

 
Discharge Condition:
Hemodynamically stable, chest pain free

 
Discharge Instructions:
You came into the hospital because of chest pain. You underwent 
a repeat cardiac catheterization that showed no major new 
blockages.
.
At the other hospital, you had evidence of an irregular heart 
rhythm (atrial fibrillation or flutter) but your heart rhythm 
here looked regular. You will need a heart monitor for 48 hours 
following discharge from the hospital to see if the irregular 
rhythm recurs.
.
We stopped your atenolol because it may be contributing to the 
dizzy episodes you were having prior to coming into the 
hospital. 
Please take your medications as directed and keep your followup 
appointments.
.
Call your doctor and seek medical attention if you develop:
** worsening chest discomfort, shortness of breath, 
lightheadedness or dizziness, bleeding, swelling, or pain at the 
procedure site at your groin, or if you have any other symptoms 
that worry you
 
Followup Instructions:
___